US04213989
A mixture of 2.2 g of 3-(3-trifluoromethyl-phenyl)-1,2,5,6-tetrahydropyridine, 18 ml of acetone, 1.18 g of silver oxide and 1.4 ml of isopropyl iodide was stirred for 12 hours at room temperature and after the addition of 0.7 ml of isopropyl iodide and 0.5 g of silver oxide, the mixture was stirred another 3 hours at room temperature and was filtered. The filtrate was evaporated to dryness to obtain 2.9 g of raw product which was chromatographed over silica gel. Elution with an 85-10-5 cyclohexane-chloroform-triethylamine mixture yielded 2.21 g of 1-isopropyl-3-(3-trifluoromethyl-phenyl)-1,2,5,6-tetrahydropyridine in the form of a yellow oil.

reactant | 3-(3-trifluoromethyl-phenyl)-1,2,5,6-tetrahydropyridine | 2.2 g | FC(C=1C=C(C=CC1)C=1CNCCC1)(F)F | C12H12F3N
reactant | isopropyl iodide | 1.4 ml | C(C)(C)I | C3H7I
reactant | isopropyl iodide | 0.7 ml | C(C)(C)I | C3H7I
catalyst | silver oxide | 1.18 g | [Ag]=O
catalyst | silver oxide | 0.5 g | [Ag]=O
solvent | acetone | 18 ml | CC(=O)C | C3H6O
product | 1-isopropyl-3-(3-trifluoromethyl-phenyl)-1,2,5,6-tetrahydropyridine | 2.21 g | C(C)(C)N1CC(=CCC1)C1=CC(=CC=C1)C(F)(F)F | C15H18F3N
